US08236845B2
N-Benzyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)amine
To a solution of 5-methoxy-2-tetralone (30 g, 170.24 mmol) dissolved in CH2Cl2 (250 mL) were added benzylamine (23 mL, 212.80 mmol) and AcOH (0.97 mL, 17.02 mmol), and the mixture was stirred for 4 h at room temperature. It was then cooled to 0° C. and NaB(OAc)3H (0.38 eq, 13.71 g, 64.69 mmol) was added over a period of 20 min. After 1 h stirring at 0° C., NaB(OAc)3H (1.07 eq, 38.61 g, 182.16 mmol) was added over a period of 30 min. It was added CH2Cl2 (100 mL), the reaction mixture warmed to room temperature and stirred for 15 h. The mixture was cooled again to 0° C., and H2O (200 mL) was added slowly. The pH of the solution was adjusted to 8.0 by adding NaHCO3 saturated aqueous solution (300 mL), and the mixture was stirred at 0° C. for 15 min. The layers were separated, and the aqueous phase was extracted with CH2Cl2 (2×150 mL). All organic phases were combined, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue (58.7 g) was purified by flash chromatography on silica gel (40:60:1-100:0:1 AcOEt/Hexane/Et3N), followed by trituration with hexane, affording 33.87 g of the title compound (Rf=0.5 (10% MeOH/CH2Cl2), yellow solid, 74% yield).

reactant | 5-methoxy-2-tetralone | 170.24 mmol, 30 g | COC1=C2CCC(CC2=CC=C1)=O | C11H12O2
reactant | benzylamine | 212.80 mmol, 23 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | AcOH | 17.02 mmol, 0.97 mL | CC(=O)O | C2H4O2
reactant | NaB(OAc)3H | 64.69 mmol, 13.71 g, 0.38 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaB(OAc)3H | 182.16 mmol, 38.61 g, 1.07 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 200 mL | O | H2O
product | N-Benzyl-N-(5-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)amine | 33.87 g, 74% yield | C(C1=CC=CC=C1)NC1CC2=CC=CC(=C2CC1)OC | C18H21NO
